US07517889B2
Argon is bubbled through a mixture of N-[6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzothiazol-2-yl]-acetamide (1.12 g, 3.52 mmol), 2-methoxy-4,6-dichloropyrimidine (700 mg, 3.91 mmol), Na2CO3 (625 mg, 5.9 mmol), and bis(triphenylphosphine)palladium(II)chloride (280 mg, 0.4 mmol), in dimethoxyethane (8 mL), water (3.4 mL) and EtOH (2.2 mL) for 10 minutes. The mixture is irradiated by microwave at 160° C. for 10 minutes added water (20 mL) and extracted with EtOAc (40 mL). The organic extracts are combined and dried over magnesium sulfate, filtered and concentrated to afford N-[6-(6-chloro-2-methoxy-pyrimidin-4-yl)-benzothiazol-2-yl]-acetamide (160 mg) as a solid.

reactant | N-[6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzothiazol-2-yl]-acetamide | 3.52 mmol, 1.12 g | CC1(OB(OC1(C)C)C1=CC2=C(N=C(S2)NC(C)=O)C=C1)C | C15H19BN2O3S
reactant | 2-methoxy-4,6-dichloropyrimidine | 3.91 mmol, 700 mg | COC1=NC(=CC(=N1)Cl)Cl | C5H4Cl2N2O
reactant | Na2CO3 | 5.9 mmol, 625 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethoxyethane | 8 mL | C(OC)COC | C4H10O2
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.4 mmol, 280 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | water | 20 mL | O | H2O
solvent | EtOH | 2.2 mL | CCO | C2H6O
solvent | water | 3.4 mL | O | H2O
product | N-[6-(6-chloro-2-methoxy-pyrimidin-4-yl)-benzothiazol-2-yl]-acetamide | 160 mg | ClC1=CC(=NC(=N1)OC)C1=CC2=C(N=C(S2)NC(C)=O)C=C1 | C14H11ClN4O2S
